US04513005
Cinnamylthiopropionic acid, m.p. 87° C., was prepared from cinnamyl bromide and mercaptopropionic acid and oxidised by the method described in Example 23(a) to cinnamylsulphonylpropionic acid, m.p. 160° C. This acid was reduced by addition to a stirred suspension of lithium aluminium hydride (2 equivalents) in tetrahydrofuran at -20° to -25° C. and the product formed isolated by ethyl acetate extraction to give cinnamyl 3-hydroxypropyl sulphone, m.p. 86° C. A solution of cinnamyl 3-hydroxylpropyl sulphone, para-toluene sulphonic acid (catalytic) and dihydropyran (2 equivalents) in dichloromethane was allowed to stand at room temperature for 24 hours, evaporated, and recrystallised from diethyl ether to give the title compound, m.p. about 45° C.

reactant | Cinnamylthiopropionic acid | C(C=CC1=CC=CC=C1)C(C(=S)O)C | C12H14OS
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | mercaptopropionic acid | C(CS)C(=O)O | C3H6O2S
reactant | cinnamylsulphonylpropionic acid | C(C=CC1=CC=CC=C1)S(=O)(=O)C(C(=O)O)C | C12H14O4S
reactant | lithium aluminium hydride | 2 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cinnamyl 3-hydroxypropyl sulphone | OCCCS(=O)(=O)CC=CC1=CC=CC=C1 | C12H16O3S
